US07468236B2
With ice cooling and stirring, 9.6 g of morpholine was added dropwise to 28.6 g of 2,2,3,3,4,4,5,5-octafluoropentyl acrylate. The mixture was stirred for one hour at room temperature, after which it was directly distilled for purification. There was obtained 36.2 g of 2,2,3,3,4,4,5,5-octafluoropentyl 3-morpholinopropionate (boiling point 84° C./13 Pa, yield 97%).

reactant | morpholine | 9.6 g | N1CCOCC1 | C4H9NO
reactant | 2,2,3,3,4,4,5,5-octafluoropentyl acrylate | 28.6 g | C(C=C)(=O)OCC(C(C(C(F)F)(F)F)(F)F)(F)F | C8H6F8O2
product | 2,2,3,3,4,4,5,5-octafluoropentyl 3-morpholinopropionate | 36.2 g, yield 97% | O1CCN(CC1)CCC(=O)OCC(C(C(C(F)F)(F)F)(F)F)(F)F | C12H15F8NO3
